US04101506
4-Cyanamido-2,2,6,6-tetramethyl piperidine
156 g (1 mole) of 4-amino-2,2,6,6-tetramethyl piperidine are dissolved in 500 ml of methylene chloride, 40 g (1 mole) of sodium hydroxide in 500 ml of water are introduced and 51 ml of cyanogen chloride are added dropwise at a temperature of 0° to 5° C. The mixture is stirred until it reaches room temperature, after which 4-cyanamido-2,2,6,6-tetramethyl piperidine, which melts at 240° C, is filtered off in a yield of 166 g (corresponding to 91.5% of the theoretical).

reactant | 4-amino-2,2,6,6-tetramethyl piperidine | 1 mole, 156 g | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
reactant | sodium hydroxide | 1 mole, 40 g | [OH-].[Na+]
reactant | cyanogen chloride | 51 ml | N#CCl | CClN
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | water | 500 ml | O | H2O
product | 4-Cyanamido-2,2,6,6-tetramethyl piperidine | N(C#N)C1CC(NC(C1)(C)C)(C)C | C10H19N3
